US05488055
A mixture of N-(1-ethylpyrazol-5-yl) -5-(trifluoromethylsulfonyl)anthranilic acid and POCl3 (30 mL) was heated on a steam bath overnight. The reaction mixture was poured onto ice-water and then was neutralized with NH4OH. The resulting solid was collected by filtration, washed with water, dissolved in CH2Cl2, dried over MgSO4, filtered and stripped. The residue was purified by column chromatography on silica gel eluting with 10% ethyl acetate/hexane to afford 1.0 g of 1-ethyl-4-chloro-6-(trifluoromethylsulfonyl)-1H-pyrazolo[3,4-b]quinoline.

reactant | N-(1-ethylpyrazol-5-yl) -5-(trifluoromethylsulfonyl)anthranilic acid | C(C)N1N=CC=C1NC=1C(C(=O)O)=CC(=CC1)S(=O)(=O)C(F)(F)F | C13H12F3N3O4S
reactant | NH4OH | [NH4+].[OH-]
reactant | POCl3 | 30 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 1-ethyl-4-chloro-6-(trifluoromethylsulfonyl)-1H-pyrazolo[3,4-b]quinoline | 1.0 g | C(C)N1N=CC=2C1=NC1=CC=C(C=C1C2Cl)S(=O)(=O)C(F)(F)F | C13H9ClF3N3O2S
